US05438054
The same procedure as in Example 8-1 was carried out by using allyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-diphenoxyphosphoryloxy-1-carbapen-2-em-3-carboxylate (264 mg, 0.49 mmol), (2R,4S)-N-allyloxycarbonyl-2-[(2S)-N-allyloxycarbonyl-2-carbamoylpyrrolidin-4-ylmethyl]-4-mercaptopyrrolidine (210 mg, 0.49 mmol) and N,N-diisopropylethylamine (92 μl, 0.49 mmol) to obtain allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-[(2S)-N-allyloxycarbonyl-2-carbamoylpyrrolidin-4-ylmethyl]pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (250 mg, yield: 73%).

reactant | allyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-diphenoxyphosphoryloxy-1-carbapen-2-em-3-carboxylate | 0.49 mmol, 264 mg | O[C@H](C)[C@@H]1[C@H]2N(C(=C([C@@H]2C)OP(=O)(OC2=CC=CC=C2)OC2=CC=CC=C2)C(=O)OCC=C)C1=O | C25H26NO8P
reactant | (2R,4S)-N-allyloxycarbonyl-2-[(2S)-N-allyloxycarbonyl-2-carbamoylpyrrolidin-4-ylmethyl]-4-mercaptopyrrolidine | 0.49 mmol, 210 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CC1C[C@H](N(C1)C(=O)OCC=C)C(N)=O | C18H27N3O5S
reactant | N,N-diisopropylethylamine | 0.49 mmol, 92 μl | C(C)(C)N(C(C)C)CC | C8H19N
product | allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-[(2S)-N-allyloxycarbonyl-2-carbamoylpyrrolidin-4-ylmethyl]pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 250 mg, yield: 73% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C)CC2C[C@H](N(C2)C(=O)OCC=C)C(N)=O | C31H42N4O9S
